US06992085B2
Step A: 1-Bromo-4-(4-bromobutoxy)benzene
The procedure is as for Example 53 using as substrate 4-bromophenol and 1,4-dibromobutane.

reactant | 4-bromophenol | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 1-Bromo-4-(4-bromobutoxy)benzene | BrC1=CC=C(C=C1)OCCCCBr | C10H12Br2O
